US04365991
300 g of p-(p-iodophenoxy)phenyl benzoate are suspended in 2800 ml of 96% ethanol, treated with 700 g of 20% sodium hydroxide solution and heated on a boiling water-bath for 90 minutes. Subsequently, the alcohol is distilled off as an azeotropic mixture and the residue is treated with 1500 ml of deionized water. After the addition of 380 ml of concentrated hydrochloric acid, the mixture is extracted three times with 1500 ml of dichloromethane each time. The dichloromethane extract is washed twice with 500 ml of saturated sodium hydrogen carbonate solution, twice with 500 ml of 2 N hydrochloric acid and twice with 500 ml of water. After drying over sodium sulphate, the solution is evaporated to 500 ml under reduced pressure and 500 ml of hot n-hexane is added to the mixture. 201 g of p-(p-iodophenoxy)phenol melting point 119° C.-121° C. is obtained.

reactant | p-(p-iodophenoxy)phenyl benzoate | 300 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)OC1=CC=C(C=C1)I | C19H13IO3
reactant | sodium hydroxide | 700 g | [OH-].[Na+]
solvent | ethanol | 2800 ml | C(C)O | C2H6O
product | p-(p-iodophenoxy)phenol | 201 g | IC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9IO2
